US04638067
A mixture of 25.4 g (0.10 mole) of N,N-diethyl-1-(phenylmethyl)-3-pyrrolidinemethanamine, 200 ml of methyl alcohol, 2 g of palladium on carbon and hydrogen were shaken at a pressure of 51.5 psi. After 20.3 hours, the catalyst was filtered and the filtrate concentrated under reduced pressure. The residue was bulb to bulb distilled giving 15.9 g of N,N-diethyl-3-pyrrolidinemethanamine.

reactant | N,N-diethyl-1-(phenylmethyl)-3-pyrrolidinemethanamine | 0.10 mole, 25.4 g | C(C)N(CC1CN(CC1)CC1=CC=CC=C1)CC | C16H26N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | methyl alcohol | 200 ml | CO | CH4O
product | N,N-diethyl-3-pyrrolidinemethanamine | 15.9 g | C(C)N(CC1CNCC1)CC | C9H20N2
